US06156907
Ethyl 2-(4-cyano-1H-1,2,3-triazol-1-yl)-4-phenyl-(2S)-butyrate
A mixture of ethyl 2-azido-4-phenyl-(2S)-butyrate (2.33 g) and 2-chloroacrylonitrile (1.75 g) in water (25 ml) is stirred at about 80° C. for 23 hours. After cooling, the product is extracted with toluene and purified by column chromatography (30 g of silica gel 60; eluent toluene). The purified product is obtained as a yellowish oil (yield 1.84 g; 65% of theory) and characterized by 1H--NMR spectrum (CDCl3). δ value: 1.29 (*H; t; J=7 Hz); 2.40-2.67 (4H, m); 4.20 (2H, q, J=7 Hz); 5.39 (1H, m); 7.10 (2H, dxd, J1 =6.6 Hz, J2 =1.5 Hz); 7.24 (1H, txt, J1 =6.6 Hz, J2 ≤1.5 Hz); 7.31 (2h, m); 8.21 (1H, s).

reactant | ethyl 2-azido-4-phenyl-(2S)-butyrate | 2.33 g | N(=[N+]=[N-])[C@H](C(=O)OCC)CCC1=CC=CC=C1 | C12H15N3O2
reactant | 2-chloroacrylonitrile | 1.75 g | ClC(C#N)=C | C3H2ClN
solvent | water | 25 ml | O | H2O
product | Ethyl 2-(4-cyano-1H-1,2,3-triazol-1-yl)-4-phenyl-(2S)-butyrate | C(#N)C=1N=NN(C1)[C@H](C(=O)OCC)CCC1=CC=CC=C1 | C15H16N4O2
